US05229400
4-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)-1-(2,4-dimethoxycinnamyl)piperidin
4-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)-1-(2,4-dimethoxycinnamoyl)piperidine was reduced with lithium alminium hydride. Yield 12.3%

reactant | 4-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)-1-(2,4-dimethoxycinnamoyl)piperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(C=CC3=C(C=C(C=C3)OC)OC)=O | C31H29NO3
reactant | lithium | [Li] | Li
reactant | hydride | [H-]
product | 4-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)-1-(2,4-dimethoxycinnamyl)piperidin | Yield 12.3% | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)CC=CC3=C(C=C(C=C3)OC)OC | C31H31NO2
